* Schematics Netlist *



X_U1         $D_LO $N_0004 $N_0003 $N_0002 $N_0001 $N_0008 $N_0007 $N_0006
+  $N_0005 $N_0010 $N_0014 $N_0013 $N_0012 $N_0011 $G_DPWR $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0015 $N_0016 $N_0007 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0017 $N_0016 $N_0008 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0018 $N_0016 $N_0006 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0019 $N_0016 $N_0005 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0001 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0002 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0003 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0004 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=1s 1 
+ 0s 0  
U_DSTM5         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0019 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
U_DSTM6         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0018 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_DSTM7         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0015 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_DSTM8         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0017 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_DSTM9         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0016 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
