* Schematics Netlist *



X_U3A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0001 $N_0004 $N_0005 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0006 $N_0003 $N_0005 $N_0007 $G_DPWR $G_DGND 7427 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1         $D_LO $N_0011 $N_0010 $N_0009 $N_0008 $N_0015 $N_0014 $N_0013
+  $N_0012 $N_0006 $N_0017 $N_0004 $N_0002 $N_0001 $G_DPWR $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0007 $N_0018 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         $D_LO $N_0017 $N_0004 $N_0002 $N_0001 $D_LO $N_0018 $N_0018 $D_LO
+  $N_0020 $N_0024 $N_0023 $N_0022 $N_0021 $G_DPWR $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A2         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0009 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_A3         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0010 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_A4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0011 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_B1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0012 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
U_B3         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0014 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
U_B4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0015 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_B2         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0013 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
U_A1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0008 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 0  
