* Schematics Netlist *



X_U7A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U22A         $N_0003 $N_0004 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U23A         $N_0005 $N_0006 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         $N_0007 $N_0008 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0009 $N_0010 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U24         $N_0019 $N_0014 $N_0013 $N_0012 $N_0011 $N_0018 $N_0017 $N_0016
+  $N_0015 $N_0020 $N_0024 $N_0023 $N_0022 $N_0021 $G_DPWR $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21         $N_0027 $N_0027 $N_0025 $N_0026 $N_0003 $N_0004 $N_0028 $N_0029
+  $N_0005 $N_0006 $N_0009 $N_0010 $N_0017 $N_0018 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         $N_0027 $N_0027 $N_0025 $N_0026 $N_0007 $N_0008 $N_0009 $N_0010
+  $N_0001 $N_0002 $N_0009 $N_0010 $N_0015 $N_0016 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM26         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0019 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 1 
+ 4s 0  
+ 5s 1  
+ 6s 0  
+ 7s 1  
U_A4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0011 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 1  
+ 8s 0  
U_DSTM23         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0012 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 1  
+ 8s 0  
U_DSTM24         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0013 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 1  
+ 8s 0  
U_A1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0014 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 1  
+ 8s 0  
U_ENABLE         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0027 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=16s 
+ 0s 1  
U_S0         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0025 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 0  
+ 4s 1  
U_S1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0026 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2s 1  
+ 4s 0  
+ 6s 1 
U_I1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0007 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 0  
+ 8s 1  
U_I2         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0001 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 0  
+ 8s 1  
U_I3         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0003 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8s 
+ 0s 0  
+ 8s 1  
U_I4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0005 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=8 
+ 0s 0  
+ 8s 1  
