* Schematics Netlist *



U_INPUT         STIM(1,1) $G_DPWR $G_DGND $N_0001 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
X_U4A         $N_0002 $N_0003 $N_0004 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0001 $D_HI $D_HI $N_0004 $N_0004 $N_0007 $N_0008 $G_DPWR
+  $G_DGND 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         $N_0001 $D_HI $D_HI $N_0002 $N_0002 $N_0003 $N_0009 $G_DPWR
+  $G_DGND 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         $N_0001 $D_HI $D_HI $D_HI $D_HI $N_0002 $N_0012 $G_DPWR $G_DGND
+  7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
