* Schematics Netlist *



X_U2A         A B SUM $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         A B CARRY $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ A 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=0.5s 
+ 1s 0  
+ 1.5s 1  
+ 2s 0  
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ B 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=1s 
+ 0s 0  
+ 1s 1  
+ 1.5s 0  
+ 2s 1 
+ 2.5s 0  
